US07569578B2
(±)-tert-Butyl 1-(1-(4-fluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (34.4 mg, 0.073 mmol), 4-fluorobenzyl bromide (10.5 μL, 0.084 mmol, 1.05 equiv), and potassium carbonate (25.0 mg, 0.18 mmol) were combined in dimethylformamide (1.0 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 28.8 mg (68%). Mass spec.: 580.42 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.073 mmol, 34.4 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 4-fluorobenzyl bromide | 0.084 mmol, 10.5 μL, 1.05 equiv | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 0.18 mmol, 25.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 1-(1-(4-fluorobenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | FC1=CC=C(CN2C(=NC=C2)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=C1 | C31H42FN5O3Si
